US07618982B2
DL-6-(3-amino-propyl)-2-pyridin-4-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
DL-6-(3-benzyloxycarbonylamino-propyl)-4-oxo-2-pyridin-4-yl-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester (0.4 g) was dissolved in cyclohexene (10 mL) and absolute EtOH (20 mL), 10% Pd on carbon (0.2 g) was added and the mixture was refluxed for 1.5 hours. After filtration through celite and solvent evaporation under reduced pressure, the compound was treated with 4N HCl in dioxane (20 mL) for 2.5 hours at room temperature. The solution was concentrated and the residue treated with ethyl acetate. The precipitate was filtered, washed with little ethyl acetate and dried. The residue was dissolved in 4M HCl in dioxane and stirred for 4 hours at room temperature. The solution was concentrated and the title compound, as the dihydrochloride, was recovered as a yellowish solid (0.29 g, quantitative).

reactant | DL-6 (3-benzyloxycarbonylamino-propyl)-4-oxo-2-pyridin-4-yl-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 0.4 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N(C(=C2)C2=CC=NC=C2)CCCNC(=O)OCC2=CC=CC=C2)=O
reactant | EtOH | 20 mL | CCO | C2H6O
solvent | cyclohexene | 10 mL | C1=CCCCC1 | C6H10
catalyst | Pd on carbon | 0.2 g | [Pd] | Pd
product | DL-6 (3-amino-propyl)-2-pyridin-4-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.NCCCN1C(=CC=2C(NCCC21)=O)C2=CC=NC=C2 | InChI=1S/C26H42N4O4.C15H18N4O/c1-33-25-17-21(7-9-23(25)31)19-29-15-5-13-27-11-3-4-12-28-14-6-16-30-20-22-8-10-24(32)26(18-22)34-2;16-5-1-9-19-13-4-8-18-15(20)12(13)10-14(19)11-2-6-17-7-3-11/h7-10,17-18,27-32H,3-6,11-16,19-20H2,1-2H3;2-3,6-7,10H,1,4-5,8-9,16H2,(H,18,20)
